US07176313B2
4-(R)-[1-Hydroxy-1-phenylmethyl]-1-[1-(R)-phenylethyl]-2-pyrrolidone [F1], [F2]
To an absolute ethanol (40 ml) solution of 4-(R)-phenylcarbonyl-1-[1-(R)-phenylethyl]-2-pyrrolidone (2.17 g, 7.40 mmol) was added sodium borohydride (280 mg) under ice cooling, followed by stirring at the same temperature for 1 hour. To the reaction solution was added 10% citric acid (50 ml) under ice cooling, and then the ethanol was removed under reduced pressure. The residue was extracted with chloroform (80 ml×2) and, after washing with saturated saline (100 ml), the organic layer was dried over anhydrous sodium sulfate. After removal of the solvent under reduced pressure, the residue was subjected to silica gel column chromatography. Elution with eluents of n-hexane/ethyl acetate (1/3) to ethyl acetate (100%) afforded the low polar title compound having low polarity [F1] (892 mg, 41%) and the title compound having high polarity [F2] (1.163 g, 53%) as pale yellow oils.

reactant | 4-(R)-phenylcarbonyl-1-[1-(R)-phenylethyl]-2-pyrrolidone | 7.40 mmol, 2.17 g | C1(=CC=CC=C1)C(=O)[C@@H]1CC(N(C1)[C@H](C)C1=CC=CC=C1)=O | C19H19NO2
reactant | sodium borohydride | 280 mg | [BH4-].[Na+]
reactant | citric acid | 50 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 4-(R)-[1-Hydroxy-1-phenylmethyl]-1-[1-(R)-phenylethyl]-2-pyrrolidone | OC(C1=CC=CC=C1)[C@@H]1CC(N(C1)[C@H](C)C1=CC=CC=C1)=O | C19H21NO2
